US07291744B2
Step b: Preparation of (1R,2S)-[2-({[3-(4-fluoro-phenyl)-propyl]-methyl-amino}-methyl)-cyclohexyl]-carbamic acid benzyl ester
A solution of toluene-4-sulfonic acid (1R,2R)-2-benzyloxycarbonylamino-cyclohexylmethyl ester (632 mg, 1.51 mmol) in acetone (8 mL) was treated with N-[3-(4-fluorophenyl)-propyl]-methylamine (253 mg, 1.51 mmol) and potassium carbonate (209 mg, 1.51 mmol) and heated at reflux for 23.5 hours. The mixture was cooled and filtered, the solid was rinsed with acetone, and the filtrate was concentrated to provide a yellow-orange oil. Flash chromatography on silica gel, eluting with 50% ethyl acetate in hexane, followed by 50% ethyl acetate in hexane containing 5% ethanol, provided a light yellow viscous oil (400 mg, 64%).

reactant | toluene-4-sulfonic acid (1R,2R)-2-benzyloxycarbonylamino-cyclohexylmethyl ester | 1.51 mmol, 632 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@@H](CCCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C22H27NO5S
reactant | N-[3-(4-fluorophenyl)-propyl]-methylamine | 1.51 mmol, 253 mg | FC1=CC=C(C=C1)CCCNC | C10H14FN
reactant | potassium carbonate | 1.51 mmol, 209 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | (1R,2S)-[2-({[3-(4-fluoro-phenyl)-propyl]-methyl-amino}-methyl)-cyclohexyl]-carbamic acid benzyl ester | 400 mg, 64% | C(C1=CC=CC=C1)OC(N[C@H]1[C@@H](CCCC1)CN(C)CCCC1=CC=C(C=C1)F)=O | C25H33FN2O2
